Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
Fall from window 
 
Major Surgical or Invasive Procedure:
s/p ICP Bolt placement and removal
s/p Chest tube placement and removal

 
History of Present Illness:
___ year old male who presented as a trauma transfer from a 
referring hospital after he presumedly fell from a window 
approximately 30 feet high. Paramedics at the scene found him on 
the ground and unresponsive with a GCS of 3. He was intubated 
and stabilized at the referring hospital and subsequently 
transferred to ___ for further care. 
 
Past Medical History:
Depression
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Upon admission:
HR 92
BP 101/57
RR 18
O2 100% on vent, AC mode
Generally, there is hemotympanum behind right ear drum, +right
ear CSF leakage.  No Battle's sign, raccoon eyes, CSF 
rhinorrhea.

Prior to additional Versed, unresponsive to voice.  Does not 
open
eyes spontaneously or in response to noxious.  Does not  follow
commands.  

Pupils 2.5-2mm, equal, round, reactive.  No blink to threat.  
OCR
not tested as in hard collar.  Face grossly symmetric.  +Gag.

Normal bulk, tone.  Moves all extremities spontaneously, 
somewhat
more often and vigorously on the left.  Withdraws to noxious.

No clonus, toes upgoing.

 
Pertinent Results:
Admit:

___ 08:55PM   TYPE-ART TEMP-38.3 RATES-18/ TIDAL VOL-500 
PEEP-5 O2-40 PO2-125* PCO2-30* PH-7.36 TOTAL CO2-18* BASE XS--6 
-ASSIST/CON INTUBATED-INTUBATED
___ 05:28PM   GLUCOSE-99 UREA N-5* CREAT-0.6 SODIUM-143 
POTASSIUM-4.1 CHLORIDE-115* TOTAL CO2-15* ANION GAP-17
___ 05:28PM   CALCIUM-7.0* PHOSPHATE-2.5* MAGNESIUM-2.2
___ 01:11PM   LACTATE-2.7*
___ 09:20AM   WBC-11.2* RBC-2.91* HGB-9.7*# HCT-29.4* 
MCV-101* MCH-33.4* MCHC-33.0 RDW-15.0
___ 06:51AM   AMYLASE-162*
___ 06:51AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:51AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG

CT HEAD W/O CONTRAST; -76 BY SAME PHYSICIAN

___: Assess interval change 

UNDERLYING MEDICAL CONDITION:
___ year old man with left epidural and right IPH 
___ FOR THIS EXAMINATION:
Assess interval change 
CONTRAINDICATIONS for IV CONTRAST: None.

INDICATION: ___ man with left epidural and right 
intraparenchymal hemorrhage. Assess for interval change.

COMPARISON: Head CT from five hours prior.

NON-CONTRAST HEAD CT: Lentiform high-density collection in the 
right temporoparietal space with adjacent sulcal effacement is 
stable measuring 8 mm in greatest diameter. Convex subdural 
hemorrhage layering over the left frontoparietal cortex is also 
stable measuring 6 mm in greatest diameter. Left frontal lobe 
hemorrhagic contusion is stable measuring 2.2 x 1.0 cm with a 
rim of surrounding edema and associated subarachnoid hemorrhage 
extending into the adjacent sulci. Two millimeters of rightward 
midline shift is stable. There is no evidence of 
intraventricular hemorrhage.

Dedicated bone windows were not obtained due to the recent CT. 
Again seen is a complex temporal bone fracture extending through 
the middle ear, into the sphenoid bone and involving the right 
sphenoid sinus. This fracture extends in the vicinity of the 
right cavernous sinus. Again seen is opacification of the 
sphenoid sinuses, ethmoid air cells, right mastoid air cells and 
right inner ear cavity from hemorrhage.

An intracranial pressure monitor bolt has been inserted via the 
left frontal calvarium terminating in the subcortical white 
matter.

IMPRESSION:

Interval placement of an intracranial pressure monitor bolt. No 
significant interval change in right epidural hematoma, left 
subdural hematoma, left intraparenchymal hemorrhage with 
associated subarachnoid hemorrhage, and complex right temporal 
bone fracture. The fracture is again noted to extend to the 
sphenoid sinus in close proximity to the right cavernous carotid 
artery, and a CT angiogram is recommended to exclude vascular 
injury, as ___ prior CT head.

Repeat ___ CT HEAD W/O CONTRAST

___: assess for worsening or new bleed s/p fall 

UNDERLYING MEDICAL CONDITION:
___ year old man with intracranial hemorrhage s/p fall from 
standing when getting out of bed. 
___ FOR THIS EXAMINATION:
assess for worsening or new bleed s/p fall 
CONTRAINDICATIONS for IV CONTRAST: None.

INDICATION: ___ male with intracranial hemorrhage status 
post fall.

COMPARISON: CT head from ___.

TECHNIQUE: MDCT contiguous axial images were obtained through 
the head without intravenous contrast.

CT HEAD WITHOUT INTRAVENOUS CONTRAST: Lentiform high-density 
collection in the right parietal region consistent with epidural 
hematoma is stable measuring approximately 12 mm in greatest 
diameter. The left frontal parenchymal hemorrhage with 
surrounding edema appears unchanged in size. Left frontal and 
temporal subarachnoid blood as well as left frontoparietal, and 
tentorial and occipital subdural hemorrhage are unchanged. No 
evidence of shift of normally midline structures, hydrocephalus 
or major territorial infarcts are seen. The basal cisterns are 
not effaced. The ventricles are stable in size. There is stable 
complex right temporal bone fracture and opacification of the 
right middle ear and inferior right mastoid air cells. 
Aerosolized hyperdense material within the sphenoid sinus 
consistent with blood products is again demonstrated. There is 
mild fluid/mucosal thickening within the left maxillary sinus 
which is stable.

IMPRESSION: Overall no significant change in hemorrhage as 
described above. No evidence of new hemorrhage, mass effect, 
hydrocephalus or acute infarction.

___ CHEST (PA & LAT)

___: Please perform between ___ and evaluate for PTX 

UNDERLYING MEDICAL CONDITION:
___ year old man with PTX now with chest tube placed to water 
seal 
___ FOR THIS EXAMINATION:
Please perform between ___ and evaluate for PTX 
HISTORY: Pneumothorax with chest tube on waterseal.

FINDINGS: In comparison with the study of ___, there is little 
overall change. Pleural thickening or fluid is again seen along 
the right lateral chest wall and in the right apex. No definite 
pneumothorax.

 
Brief Hospital Course:
He was admitted to the Trauma Service. Neurosurgery was 
immediately consulted given his head injuries. He was loaded 
with Dilantin. An ICP bolt was placed; he was subsequently taken 
to the Trauma ICU for close monitoring. He initially remained 
sedated and intubated for several days in the ICU. Serial head 
CT scans were followed and remained stable. The ICP bolt was 
eventually removed and his sedation was weaned; he was then 
extubated. His mental status once fully awake was consistent 
with someone with a traumatic brain injury. He was 
intermittently restless with poor safety awareness therefore 
requiring a 1:1 sitter. There were no aggressive behaviors 
noted. The 1;1 sitters were eventually discontinued and he 
remains cooperative; alert and oriented to self and family; 
occasionally to place and time. He will continue on Dilantin 
until follow up with Dr. ___, in 4 weeks. He 
will undergo repeat head CT imaging at that time.

Orthopedics was consulted given his right scapular fracture; 
this injury was nonoperative. He was placed in a sling and will 
follow up in Orthopedics clinic in 4 weeks for repeat imaging. 
He was also noted to have increased right shoulder pain with 
movement; a repeat shoulder film was obtained and revealed a 
right AC separation. He is to remain non weight bearing on that 
extremity and continue to wear sling for comfort. He will follow 
up with Dr. ___ (see appointment on discharge 
worksheet), at that time a plan will be discussed regarding 
repair of his shoulder.

A Psychiatry consult was done given some question of previous 
suicide attempts per family report and question as to whether or 
not this was such an attempt. Because he has been unable to give 
any account of what transpired prior to his fall; this a result 
of his brain injury; he was not deemed a risk to harm himself. 
It was recommended discontinuing the use of Ativan and he was 
started on Olanzapine which has been effective. It was requested 
by the rehab facility that the Olanzapine be stopped and so it 
was discontinued. There have not been any behavioral issues 
since stopping this medication. 

Social work was closely involved in his care throughout his stay 
providing emotional support for patient and his family. 

Physical and Occupational therapy were consulted and initially 
recommended rehab post acute hospital stay. Functionally he has 
had significant improvements; cognitive because of his short 
term memory there are safety concerns. Occupational therapy has 
continued to work with him for cognitive training.

 
Medications on Admission:
Unknown
 
Discharge Medications:
 

1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet ___ every four 
(4) hours as needed for fever/pain.  
2. Senna 8.6 mg Tablet Sig: Two (2) Tablet ___ BID (2 times a 
day) as needed for constipation.  
3. Lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___.  
4. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) ___ as needed for 
constipation.  
5. Trazodone 50 mg Tablet Sig: One (1) Tablet ___ HS (at 
bedtime).  
6. Oxycodone 5 mg Tablet Sig: ___ Tablets ___ every ___ hours as 
needed for pain.  
7. Colace 100 mg Capsule Sig: One (1) Capsule ___ twice a day as 
needed for constipation.  
8. Dilantin Infatabs 50 mg Tablet, Chewable Sig: Two (2) Tablet, 
Chewable ___ three times a day for 2 weeks.  
9. Multivitamin,Tx-Minerals     Tablet Sig: One (1) Tablet ___ 
___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p Fall
1) Traumatic Brain Injury
2) Multiple Right Rib Fractures
3) Right Scapular Fracture
4) Right AC separation
5) Right Pneumothorax

 
Discharge Condition:
Good

 
Discharge Instructions:
DO NOT bear any weight on your right arm because of your 
fracture.

Continue to wear a sling for comfort.
 
Followup Instructions:
___